US07273877B2
4-(4-Ethynyl-2-fluoroanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide was hydrogenated in MeOH/THF in the presence of 5% Pd/C as for example 3. Purification of the crude oil was carried out by column chromatography on silica gel (50% acetone/CH2Cl2 as eluant) to give 4-(4-ethyl-2-fluoroanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide as a cream solid (82%), m.p. (EtOAc) 268-272° C. 1H NMR [(CD3)2SO, 400 MHz] δ 10.14 (s, 1H), 8.32 (s, 1H), 7.84 (br s, 1H), 7.43 (br s, 1H), 7.33 (t, J=8.4 Hz, 1H), 7.19 (dd, J=11.1, 1.7 Hz, 1H), 7.08 (dd, J=8.2, 1.5 Hz, 1H), 5.39 (d, J=1.1 Hz, 1H), 3.36 (s, 3H), 2.62 (q, J=7.6 Hz, 2H), 1.19 (t, J=7.6 Hz, 3H). Anal. Calcd for C15H16FN3O2: C, 62.3; H, 5.6; N, 14.5. Found: C, 62.5; H, 5.4; N, 14.8.

reactant | 4-(4-Ethynyl-2-fluoroanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide | C(#C)C1=CC(=C(NC=2C(=CN(C(C2)=O)C)C(=O)N)C=C1)F | C15H12FN3O2
solvent | MeOH THF | CO.C1CCOC1
catalyst | Pd/C | [Pd] | Pd
product | 4-(4-ethyl-2-fluoroanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide | 82% | C(C)C1=CC(=C(NC=2C(=CN(C(C2)=O)C)C(=O)N)C=C1)F | C15H16FN3O2
